US08357711B2
3-Fluoro-N-[2-(4-fluorophenoxy)-2-methylpropyl]-4-[(1,2,4-thiadiazol-5-ylamino)sulfonyl]benzamide
2-Fluoro-4-({[2-(4-fluorophenoxy)-2-methylpropyl]amino}carbonyl)benzenesulfonyl chloride (Preparation 95, 242 mg, 0.599 mmol) was added portion-wise to a solution of 1,2,4-thiadiazol-5-amine (182 mg, 1.80 mmol) and sodium hydroxide (71.9 mg, 1.80 mmol) in 1,4-dioxane (1.9 mL, 24 mmol) and water (0.37 mL, 21 mmol). After stirring 30 min at ambient temperature, the reaction was quenched with 2 N HCl. The mixture was partitioned with methylene chloride. The aqueous layer was washed with methylene chloride, and the combined organic layers were dried over sodium sulfate, filtered and concentrated onto Celite. The residue was purified via automated flash chromatography (12 g SiO2, chloroform to 20% MeOH in chloroform). The product containing fractions were concentrated in vacuo, and the residue was dissolved in 1 mL of DMSO, filtered, and purified via reverse-phase HPLC (Prep: Phenomenex 250×30.0 mm 15 micron C18 column. 40 mL/min. Gradient 15% B to 100% B over 25 min. Solvent A: 7800 water/200 acetonitrile/8 TFA. Solvent B: 7200 acetonitrile/800 water/8 TFA). The product containing fractions were lyophilized to afford the product as a white powder (48 mg, 16%).

reactant | 2-Fluoro-4-({[2-(4-fluorophenoxy)-2-methylpropyl]amino}carbonyl)benzenesulfonyl chloride | 0.599 mmol, 242 mg | FC1=C(C=CC(=C1)C(=O)NCC(C)(C)OC1=CC=C(C=C1)F)S(=O)(=O)Cl | C17H16ClF2NO4S
reactant | 1,2,4-thiadiazol-5-amine | 1.80 mmol, 182 mg | S1N=CN=C1N | C2H3N3S
reactant | sodium hydroxide | 1.80 mmol, 71.9 mg | [OH-].[Na+]
reactant | 1,4-dioxane | 24 mmol, 1.9 mL | O1CCOCC1 | C4H8O2
reactant | water | 21 mmol, 0.37 mL | O | H2O
product | 3-Fluoro-N-[2-(4-fluorophenoxy)-2-methylpropyl]-4-[(1,2,4-thiadiazol-5-ylamino)sulfonyl]benzamide | 48 mg, 16% | FC=1C=C(C(=O)NCC(C)(C)OC2=CC=C(C=C2)F)C=CC1S(=O)(=O)NC1=NC=NS1 | C19H18F2N4O4S2
